reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2](/[C:3]([C:4]([H:14])([H:15])[H:16])=[N:5]\[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:18],81.9368605486695
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3](\[C:4]([H:13])([H:14])[H:15])([O:5][H:16])=[C:6](\[C:7][H:17])[H:9],98.3026585433943
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6][O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],29.517905213226705
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O+:3][C:4]([N:5]([H:11])[H:13])=[C:6]=[N-:7])[H:12])([H:8])([H:9])[H:10],58.16051990280211
[C:1]([O:2][C:3]1=[N:4][N+:5]([H:11])([H:12])[C-:6]=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],17.079977087174996
[C:1]([C:2]([N+:4]#[C-:3])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]#[N:4])([H:8])[H:9])([H:5])([H:6])[H:7],38.67942022471561
[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]#[C:4][H:11])([N+:6]#[C-:5])[H:10])([H:7])([H:8])[H:9],58.9081348216439
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6][O:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],28.223541149413798
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:6]/[C:5](=[C:2](/[C:3]([O:4][H:13])([H:11])[H:12])[H:10])[H:14])([H:7])([H:8])[H:9],97.2613254304093
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O+:6]=[C-:5][N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],107.43163898395599
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C@@:5]([C:4](=[C:3]([H:9])[H:10])[H:11])([H:12])[O:6]1)[H:7],78.2374746165282
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[O:4])([H:12])[H:13].[C:5](=[O:6])([H:9])[H:14]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],40.4727104283842
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N+:4]([C-:5]([H:12])[H:13])=[C:6]([H:14])[H:15])[H:11],49.149370933065704
[O:1]=[C:2]([O:6][C:5](=[O+:4][C-:3]([H:8])[H:9])[H:10])[H:7]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],9.920146376368905
[C:1]([C:2]([N+:3]([C-:4]([H:13])[H:14])([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],14.591010944442374
[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]3([H:9])[N:4]([H:10])[C@@:5]2([H:11])[C@:6]13[H:12]>>[N+:1]12([H:7])[C@:2]3([H:8])[C-:3]1[C@@:6]2([H:12])[C@:5]3([N:4]([H:9])[H:10])[H:11],68.9020079822903
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C:1]([C:3]1([O:2][H:7])[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12])[H:8],71.5582492484405
[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([O:3][C:4]([N+:6]#[C-:5])([H:8])[H:9])[H:7],57.4251551094927
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5][H:15])[H:10])([H:7])([H:8])[H:9].[O:6]([H:14])[H:16],83.0089787061755
[N:1]([C:2]([C:3]#[N:4])([H:7])[H:8])([H:5])[H:6]>>[N+:1]([C-:2]([C:3]#[N:4])[H:8])([H:5])([H:6])[H:7],70.1778931048147
[C:1](/[C:2](=[C:3](/[N:4]([H:13])[H:14])[C:5]#[N:6])[H:11])([H:7])([H:8])[H:9].[H:10][H:12]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],77.27056870286441
[N:1]([C+:2][C@@:6]1([H:11])[C:3]([H:9])[N:4]([H:10])[N-:5]1)([H:7])[H:8]>>[N:1]([c:2]1[c:3]([H:9])[n:4]([H:10])[n:5][c:6]1[H:11])([H:7])[H:8],14.335808153198002
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:6][C:5](=[C:4]([H:14])[H:15])[H:16])[H:10])([H:7])([H:8])[H:9],90.15673609162941
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:5]#[C:6][H:12])[H:10])([H:7])[H:9].[C:3](=[O:4])([H:8])[H:11],75.87715111320259
[C:1]([C:2]([N:3]=[O:4])=[C:5]([H:11])[H:12])([H:7])([H:8])[H:9].[O:6]([H:10])[H:13]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],24.256093837877398
